US05395832
(1) Ethyl cis-[4-(4-amino-5-chloro-2-methoxybenzamido)-3-methoxypiperidino]formate
To a mixture of 33.3 g of 4-amino-5-chloro-3-methoxybenzoic acid, 27.0 ml of triethylamine, and 450 ml of tetrahydrofuran, 16.2 ml of ethyl chloroformate was added dropwise with stirring under ice-cooling. Stirring was continued for 1.5 hours under ice-cooling, a solution of 35.0 g of ethyl cis-(4-amino-3-methoxypiperidino)formate in 50 ml of tetrahydrofuran was added dropwise. After being stirred for 20 hours at room temperature, the reaction mixture was concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with dichloromethane. The extract was washed with aqueous potassium carbonate solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was washed with diethyl ether to give 44.5 g of colorless crystals.

reactant | 4-amino-5-chloro-3-methoxybenzoic acid | 33.3 g | NC1=C(C=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | triethylamine | 27.0 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 16.2 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl cis-(4-amino-3-methoxypiperidino)formate | 35.0 g | N[C@@H]1[C@@H](CN(CC1)C(=O)OCC)OC | C9H18N2O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | Ethyl cis-[4-(4-amino-5-chloro-2-methoxybenzamido)-3-methoxypiperidino]formate | 44.5 g | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)C(=O)OCC)OC)C=C1Cl)OC | C17H24ClN3O5
